US04490374
6,7-Dimethoxy-4-ethyl-2(1H)quinazolinone
A suspension of N-(3,4-dimethoxyphenyl)-N'-propionylurea (32.45 g, 128 mM) in polyphosphoric acid (375.12 g, 1109 mM) is heated at 130°-135° C. under nitrogen with vigorous stirring for 3.5 hours. The mixture is then poured onto 500 g ice-H2O and stirred. The solution is brought to pH 5.5 with concentrated NH4OH and allowed to stand at room temperature overnight. A brown precipitate forms. The resulting solid is filtered and dried to yield 7.40 g of a white solid. This filtrate is extracted with CHCl3 (5×250 ml), the organic extract is dried (MgSO4) and the solvent removed in vacuo to give a tan solid. The solid is triturated with acetone and filtered to give a tan solid (4.98 g). A sample is slurried in water and redried for additional purification, m.p. 263°-265° C. δTMSTFA 7.50 (s, 1H, 5--H), 7.23 (s, 1H, 8--H), 4.30 (s, 3H, 6 or 7--OCH3) 4.17 (s, 3H, 6 or 7--OCH3), 3.50 (q, 2H, J=8.0 Hz, CH2CH3), 1.70 (t, 3H, J=8.0 Hz, CH2CH3).

reactant | N-(3,4-dimethoxyphenyl)-N'-propionylurea | 128 mM, 32.45 g | COC=1C=C(C=CC1OC)NC(=O)NC(CC)=O | C12H16N2O4
reactant | NH4OH | [NH4+].[OH-]
product | 6,7-Dimethoxy-4-ethyl-2(1H)quinazolinone | 7.40 g | COC=1C=C2C(=NC(NC2=CC1OC)=O)CC | C12H14N2O3
